US08802728B2
Add a solution of t-BuLi (5.8 mL, 8.68 mmol) via syringe to a solution of 3-bromo-phenol (752 mg, 4.34 mmol) in THF (60 mL) at −78° C. under N2. After being stirred at −78° C. for 1 hour, add a solution of 3-dimethylaminomethyl-bicyclo[4.1.0]heptan-2-one (300 mg, 2.17 mmol) in THF (2 mL) to the reaction mixture and stir the reaction mixture at −78° C. for additional 2 hours. Quench the reaction mixture with saturated NH4Cl solution (30 mL). Extract the aqueous resultant mixture with EtOAc (60 mL×3). The combined organic layers are washed with brine (30 mL), dried over Na2SO4, filtered, and concentrated under vacuum. Purify the residue by Preparative HPLC to give 3-dimethylaminomethyl-2-(3-hydroxy-phenyl)-bicyclo[4.1.0]heptan-2-ol as white solid (73 mg, yield: 12.9%). MS (m/z): 262 (M+1).

reactant | t-BuLi | 8.68 mmol, 5.8 mL | [Li]C(C)(C)C
reactant | 3-bromo-phenol | 4.34 mmol, 752 mg | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | 3-dimethylaminomethyl-bicyclo[4.1.0]heptan-2-one | 2.17 mmol, 300 mg | CN(C)CC1C(C2CC2CC1)=O | C10H17NO
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-dimethylaminomethyl-2-(3-hydroxy-phenyl)-bicyclo[4.1.0]heptan-2-ol | 73 mg, yield: 12.9% | CN(C)CC1C(C2CC2CC1)(O)C1=CC(=CC=C1)O | C16H23NO2
